US07741341B2
tert-Butyl-[2-(2,3-dinitro-phenoxy)-ethoxy]-dimethyl-silane was prepared by a procedure according to example 108 (i) starting from 500 mg (2.72 mmol) 2,3-dinitro-phenol and 1.00 g (4.18 mmol) (2-Bromo-ethoxy)-tert-butyl-dimethyl-silane.

reactant | 2,3-dinitro-phenol | 2.72 mmol, 500 mg | [N+](=O)([O-])C1=C(C=CC=C1[N+](=O)[O-])O | C6H4N2O5
reactant | (2-Bromo-ethoxy)-tert-butyl-dimethyl-silane | 4.18 mmol, 1.00 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
product | tert-Butyl-[2-(2,3-dinitro-phenoxy)-ethoxy]-dimethyl-silane | C(C)(C)(C)[Si](C)(C)OCCOC1=C(C(=CC=C1)[N+](=O)[O-])[N+](=O)[O-] | C14H22N2O6Si
